US08629160B2
To a suspension of 2-oxoacetic acid hydrate (0.40 g, 4.37 mmol) and aniline (0.40 ml, 4.37 mmol) in acetonitrile (25 ml), was added 6-(benzyloxy)pyridin-3-ylboronic acid (1.00 g, 4.37 mmol), and the reaction mixture was refluxed for 2 hours. The solvent was evaporated, and the resulting dark brown oil was purified by flash chromatography (DCM/MeOH=97/3) to obtain 2-(6-(benzyloxy)pyridin-3-yl)-2-(phenylamino)acetic acid (460 mg, 31.5% yield).

reactant | 2-oxoacetic acid hydrate | 4.37 mmol, 0.40 g | O.O=CC(=O)O
reactant | aniline | 4.37 mmol, 0.40 ml | NC1=CC=CC=C1 | C6H7N
reactant | 6-(benzyloxy)pyridin-3-ylboronic acid | 4.37 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)B(O)O | C12H12BNO3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-(6-(benzyloxy)pyridin-3-yl)-2-(phenylamino)acetic acid | 460 mg, 31.5% yield | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C(C(=O)O)NC1=CC=CC=C1 | C20H18N2O3
